datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>C[N:23]1C2=C(C=CC=C2)[C:21]([CH:20]([N:10]2[C@H](C3=CC=CC=C3)CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.N#C[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CC(C)(C)[C:22]1=[C:21]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](C#N)[CH:64]=[CH:63]3)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.[H][Si:11]([H])([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.[H][Si+:11]([H])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[C:72]1=[CH:71][N-:10][CH:61]=[N:62]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[CH:61]=[N:62][C:72](C)=[CH:71]2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11]=[C:10](C)C.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11][C:10](C)(C)[CH:20]([C:31]#[C:32][C:33]12C3C4C5C6C1[Cr-3:34]54632(C#[O+])(C#[O+])C#[O+])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20"
"CN1CCCC1[C:62]1=[CH:63][CH:72]=[CH:71][N:10]=[CH:61]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[CH:61][C:62](C3CCCN3C)=[CH:63][CH:72]=[CH:71]2)[O:21]C)[CH:35]=[CH:36]1 10=20;20,21=21"
"C[C:11]([H:10])(/[CH:12]=[CH:13]/C)/[CH:72]=[CH:73]/C.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>C[C:11](=[CH:12][CH+:13]C)/[CH:72]=[CH:73]/C.C[N:23]1C2=C(C=CC=C2)[C:21]([CH:20]([H:10])[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)=[CH:22]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.CC(C)(C)O[C:62]([NH:61][NH2:10])=[O:63]>>CC(C)(C)O[C:62]([NH:61][NH2+:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:45]=[CH:46]1)=[O:63] 10=20
"C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.CN(C)C1=CC=C(C[C:10]2=[C:11]([O-:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])C=C1>>CN(C)C1=CC=C(C[C:10]2([CH2:20][C-:21]([S:32](C3=CC=CC=C3)(=[O:33])=[O:34])[S:41](C3=CC=CC=C3)(=[O:42])=[O:43])[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1C[N:10]=[C:11]2[N:12](C1)CC[S:62]2.CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>CC(C)(C)[C:22](=[CH:21][CH:20]([N:10]1CCC[N+:12]2=[C:11]1[S:62]CC2)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])[CH2:62][Si:63](Cl)(Cl)Cl.Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>C[C+:11]([CH2:10][CH:20]1[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]1=[O:33])[CH2:62][Si:63](Cl)(Cl)Cl 10,11=10,20;20,21=21,22;22,23=23"
CC1(C)[O:72][C:61](=[O:62])[CH-:10][C:81](=[O:82])[O:92]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[C:61](=[O:62])[O:72]C(C)(C)[O:92][C:81]2=[O:82])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[C:11]1=[N:10][CH:61]=[C:62](C)[N-:12]1>>CC1=CC=C([S:32]([N-:21][CH:20]([N:10]2[C:11](C)=[N:12][C:62](C)=[CH:61]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.C[O:64][C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N+:10]2=[CH:61][CH:62]=[C:63]([O:64]C)[CH:72]=[CH:71]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10=20;20,21=21,22;22,23=23"
